US08957093B2
Step 3: 1-((3′-(Ethoxycarbonyl)-[1,1′-biphenyl]-2-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid
The title compound was prepared following the same protocol as described in Step 5, Example 38, using 1-(2-bromobenzyl)-2,3-dimethyl-1H-indole-5-carboxylic acid instead of the (S)-1-(4-bromobenzyl)-N-(1-(4-nitrophenyl)ethyl)-1H-indole-5-carboxamide and the (3-(ethoxycarbonyl)phenyl)boronic acid instead of the phenylboronic acid. ESI-MS (m/z): 428 [M+H]+.

reactant | 1-(2-bromobenzyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | BrC1=C(CN2C(=C(C3=CC(=CC=C23)C(=O)O)C)C)C=CC=C1 | C18H16BrNO2
reactant | (3-(ethoxycarbonyl)phenyl)boronic acid | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
product | 1-((3′-(Ethoxycarbonyl)-[1,1′-biphenyl]-2-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)OC(=O)C=1C=C(C=CC1)C1=C(C=CC=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C27H25NO4
